US09428509B2
4-(2-Chloro-4-(3,3-difluorocyclobutoxy)-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide
A solution of 4-(2,4-dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide (1 equiv), 3,3-difluorocyclobutan-1-ol (1.1 equiv), and sodium tert-butoxide (1.2 equiv) in 1,4-dioxane (0.22 M) were combined in a sealable flask. The reaction mixture was put under a nitrogen atmosphere, the sealable flask was sealed, and the mixture was stirred at 70° C. for 16 h. The mixture was cooled to room temperature and concentrated to afford an oil, which was suspended in DCM and purified using silica gel chromatography (0-50% ethyl acetate in hexane) to afford the title product (64.1% yield) as a clear oil. MS (ESI) m/z 523.4 [M+1]+.

reactant | 4-(2,4-dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)Cl | C20H24Cl2N4O2Si
reactant | 3,3-difluorocyclobutan-1-ol | 1.1 equiv | FC1(CC(C1)O)F | C4H6F2O
reactant | sodium tert-butoxide | 1.2 equiv | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 0.22 M | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(2-Chloro-4-(3,3-difluorocyclobutoxy)-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 64.1% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CC(C2)(F)F | C24H29ClF2N4O3Si
